### PR TITLE
[Merged by Bors] - feat(Algebra): add two lemmas

### PR DESCRIPTION
**Pull request by alreadydone**
Developed in conjunction with #19660, but found not to be needed.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/IntegralClosure/IsIntegral/Basic.lean [hunk 1]
```diff
@@ -100,9 +100,14 @@ theorem isIntegral_one [Algebra R B] : IsIntegral R (1 : B) :=
 variable (f : R →+* S)
 
 theorem IsIntegral.of_pow [Algebra R B] {x : B} {n : ℕ} (hn : 0 < n) (hx : IsIntegral R <| x ^ n) :
-    IsIntegral R x := by
-  rcases hx with ⟨p, hmonic, heval⟩
-  exact ⟨expand R n p, hmonic.expand hn, by rwa [← aeval_def, expand_aeval]⟩
+    IsIntegral R x :=
+  have ⟨p, hmonic, heval⟩ := hx
+  ⟨expand R n p, hmonic.expand hn, by rwa [← aeval_def, expand_aeval]⟩
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/IntegralClosure/IsIntegral/Basic.lean:105]: I don't know that this is better, but it's not worse.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
